US04845079
3-[(4-Morpholinyl)carbonyl]-2-phenoxypropionic acid methyl ester
Using the mixed anhydride procedure described in Example 2,-morpholine was coupled to 3-carbomethoxy 3-phenoxypropionic acid to give the desired product in 86% yield, mp 83°-84° C. Anal. Calcd for C15H19NO5 : C, 61.42; H, 6.53; N, 4.78. Found: C, 61.47; H, 6.50; N, 4.61.

reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | 3-carbomethoxy 3-phenoxypropionic acid | C(=O)(OC)C(CC(=O)O)OC1=CC=CC=C1 | C11H12O5
product | 3-[(4-Morpholinyl)carbonyl]-2-phenoxypropionic acid methyl ester | 86% yield | COC(C(CC(=O)N1CCOCC1)OC1=CC=CC=C1)=O | C15H19NO5
